US08957073B2
To a solution of 2-azetidin-3-yl-3-piperidin-1-yl-pyrazine hydrochloride (127 mg, 0.5 mmol) and 2-chloro-quinoline (81.5 mg 0.5 mmol) in DMF (5 mL) was added Cs2CO3 (325 mg, 1 mmol). The reaction mixture was stirred at 100° C. overnight. The reaction mixture was diluted with water, extracted with EtOAc (2×20 mL). The combined organic extracts were washed with water (15 mL) and brine (15 mL), dried over Na2SO4 and filtered. The filtrate was evaporated in vacuo and the residue was purified by ISCO silica gel column (10% to 80% EtOAc in petroleum ether) to give 2-[3-(3-piperidin-1-yl-pyrazin-2-yl)-azetidin-1-yl]-quinoline (58 mg, 0.17 mmol yield 17%).

reactant | 2-azetidin-3-yl-3-piperidin-1-yl-pyrazine hydrochloride | 0.5 mmol, 127 mg | Cl.N1CC(C1)C1=NC=CN=C1N1CCCCC1
reactant | 2-chloro-quinoline | 0.5 mmol, 81.5 mg | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | Cs2CO3 | 1 mmol, 325 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[3-(3-piperidin-1-yl-pyrazin-2-yl)-azetidin-1-yl]-quinoline | 0.17 mmol, 58 mg, yield 17% | N1(CCCCC1)C=1C(=NC=CN1)C1CN(C1)C1=NC2=CC=CC=C2C=C1 | C21H23N5
